US08124629B2
{6-Fluoro-4-[(4-methanesulfonyl-phenyl)-methoxy-methyl]-naphthalen-2-yl}-acetic acid
Starting with {6-fluoro-4-[(4-methanesulfonyl-phenyl)-methoxy-methyl]-naphthalen-2-yl}-acetic acid methyl ester, and using the method analogous to the one described for example 2-1, final step, 6-fluoro-4-[(4-methanesulfonyl-phenyl)-methoxy-methyl]-naphthalen-2-yl}-acetic acid (36 mg, 99%) was obtained as a white solid. 1H NMR (300 MHz, CDCl3) δ ppm: 7.78-7.93 (m, 3 H), 7.75 (br. s, 1 H), 7.50-7.68 (m, 4 H), 7.16-7.31 (m, 1 H), 5.80 (s, 1 H), 3.84 (s, 2 H), 3.45 (s, 3 H), 3.02 (s, 3 H); HRMS (ESI+) cald. for C21H19FO5S [(M+Na)+] 425.0829, obsd. 425.0827.

reactant | {6-fluoro-4-[(4-methanesulfonyl-phenyl)-methoxy-methyl]-naphthalen-2-yl}-acetic acid methyl ester | COC(CC1=CC2=CC=C(C=C2C(=C1)C(OC)C1=CC=C(C=C1)S(=O)(=O)C)F)=O | C22H21FO5S
solvent | acetic acid | 36 mg | C(C)(=O)O | C2H4O2
product | {6-Fluoro-4-[(4-methanesulfonyl-phenyl)-methoxy-methyl]-naphthalen-2-yl}-acetic acid | FC=1C=C2C(=CC(=CC2=CC1)CC(=O)O)C(OC)C1=CC=C(C=C1)S(=O)(=O)C | C21H19FO5S
